US06369075B1
2-Methyl-7-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid ethyl ester
4′-Trifluoromethyl-biphenyl-2-carboxylic acid (3-amino-4-formyl-phenyl)-amide (769 mg, 2.0 mmol) and ethyl acetoacetate (260 mg, 2.0 mmol) were dissolved in 10 ml of acetic acid and heated at 80 C. After 2.5 h, the mixture was cooled to room temperature, diluted with water and brought to pH 10 with 2N NaOH. The mixture was extracted with ethyl acetate (2×50 ml), the combined organic layers washed with brine, dried over magnesium sulfate, and concentrated to give 815 mg of a yellow solid. This material was purified by chromatography on silica gel eluting with 0 to 10% ethyl acetate in dichloromethane to provide 349 mg (36%) of the title compound as a yellow foam.

reactant | 4′-Trifluoromethyl-biphenyl-2-carboxylic acid (3-amino-4-formyl-phenyl)-amide | 2.0 mmol, 769 mg | NC=1C=C(C=CC1C=O)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C21H15F3N2O2
reactant | ethyl acetoacetate | 2.0 mmol, 260 mg | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | NaOH | 2N | [OH-].[Na+]
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-Methyl-7-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid ethyl ester | 815 mg | C(C)OC(=O)C=1C(=NC2=CC(=CC=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C27H21F3N2O3
